US07968746B2
Following the amide coupling procedure described in protocol A, 502 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.01 mmol), 356 mg CDI (2.20 mmol) and 158 mg cyclopropanemethylamine (2.22 mmol produced 445 mg of N-(cyclopropylmethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide as a clear colorless oil.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.01 mmol, 502 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropanemethylamine | 158 mg | C1(CC1)CN | C4H9N
product | N-(cyclopropylmethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 445 mg | C1(CC1)CNC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C18H25NO3
